US04347187
To a solution of N-chlorosuccinimide (40 g, 0.3 5 moles) in anhydrous dichloromethane (3 l), cooled to -30° to -40° C. and maintained in a nitrogen atmosphere, was added, with good stirring, a solution of dimethyl sulfide (20.5 g, 0.66 moles) in dichloromethane (125 ml) over a 1 hour period, the temperature being maintained at -30° to -40° C. After a further hour at this temperature, a solution of pyrrole (20 g, 0.3 moles) in dichloromethane (125 ml) was added over a 1 hour period maintaining a temperature of -30° to -40° C. The solution was stirred for a further 2 hours at -30° to -40° C. and then ether (ca 6 l) was added with strong agitation until the precipitation of the product was complete. The solid was collected by filtration, washed three times with ether and dried in vacuo to give a white solid of dimethyl 2-pyrrolylsulfonium chloride (40 g, 83%) which after crystallization from dichloromethane had mp 115°-116° C. dec.

reactant | N-chlorosuccinimide | 5 moles, 40 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | dimethyl sulfide | 0.66 moles, 20.5 g | CSC | C2H6S
reactant | pyrrole | 0.3 moles, 20 g | N1C=CC=C1 | C4H5N
reactant | ether | ca 6 l | CCOCC | C4H10O
solvent | dichloromethane | 3 l | ClCCl | CH2Cl2
solvent | dichloromethane | 125 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 125 ml | ClCCl | CH2Cl2
product | dimethyl 2-pyrrolylsulfonium chloride | 40 g, 83% | [Cl-].C[S+](C=1NC=CC1)C | InChI=1S/C6H10NS.ClH/c1-8(2)6-4-3-5-7-6;/h3-5,7H,1-2H3;1H/q+1;/p-1
